US05370819
4-Fluorophenylacetylene (1.3 g) was dissolved in THF (20 ml), followed by dropwise adding a n-butyllithium-hexane solution (1.61M, 0.62 ml) while stirring the above solution under ice-cooling, stirring the reaction solution under ice-cooling for 30 minutes, dropwise adding a solution of 2-(4-pentylcyclohexyl)acetaldehyde (1.5 g) in THF (10 ml), raising the temperature of the reaction solution up to room temperature after completion of the dropwise addition, stirring the mixture for 5 hours, adding dilute hydrochloric acid (5 ml) to the resulting raw solution, extracting with ethyl acetate (50 ml), washing the organic layer with water, drying over anhydrous MgSO4, concentrating under reduced pressure to obtain a brown oil, and recrystallizing this oil from a mixed solution of ethyl acetate-heptane, to obtain 1-(4-fluorophenyl)-4-(4-pentylcyclohexyl)-1-butyn-3-ol (white crystal) (2.3 g) .

reactant | 4-Fluorophenylacetylene | 1.3 g | FC1=CC=C(C=C1)C#C | C8H5F
reactant | 2-(4-pentylcyclohexyl)acetaldehyde | 1.5 g | C(CCCC)C1CCC(CC1)CC=O | C13H24O
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(4-fluorophenyl)-4-(4-pentylcyclohexyl)-1-butyn-3-ol | 2.3 g | FC1=CC=C(C=C1)C#CC(CC1CCC(CC1)CCCCC)O | C21H29FO
